US08466186B2
(a) N-(6-Chloro-2-fluoro-3-methyl-phenyl)-acetamide
Acetylchloride (2.56 mL, 36.0 mmol) was added to a mixture of 6-chloro-2-fluoro-3-methyl-aniline (5.00 g, 31.3 mmol) and toluene (200 mL), additional toluene (50 mL) was added and the mixture was heated to reflux for 3 h. The reaction mixture was cooled with an ice bath and the formed precipitate was filtered off, washed with cold toluene and dried.

reactant | Acetylchloride | 36.0 mmol, 2.56 mL | C(C)(=O)Cl | C2H3ClO
reactant | 6-chloro-2-fluoro-3-methyl-aniline | 31.3 mmol, 5.00 g | ClC1=CC=C(C(=C1N)F)C | C7H7ClFN
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | N-(6-Chloro-2-fluoro-3-methyl-phenyl)-acetamide | ClC1=CC=C(C(=C1NC(C)=O)F)C | C9H9ClFNO
